US05157026
Step 1: 2-Ethyl-7-methylimidazo[4,5-b]pyridine
A mixture of propionic acid (0.89 ml, 12 mmols), 2,3-diamino-4-picoline (1.23 g, 10 mmol) and polyphosphoric acid (40 g) was heated to 100° C. for 6 hours. Work-up of the reaction and purification of the crude product according to the procedure described in Step 1 of Example 9 gave the desired compound (1.46 g, 90%) as a tan colored solid.

reactant | propionic acid | 12 mmols, 0.89 ml | C(CC)(=O)O | C3H6O2
reactant | 2,3-diamino-4-picoline | 10 mmol, 1.23 g | NC1=NC=CC(=C1N)C | C6H9N3
product | 2-Ethyl-7-methylimidazo[4,5-b]pyridine | 1.46 g, 90% | C(C)C=1NC=2C(=NC=CC2C)N1 | C9H11N3
